US04029658
10. Allyl dimethyl hydroxyethylammonium chloride
89 grams of N-dimethylaminoethanol were dissolved in 244.7 grams of water, to which 76.5 grams of allyl chloride were added slowly and with cooling, keeping the temperature below 35° C. The reaction was essentially complete within one hour. A clear solution was obtained.

reactant | N-dimethylaminoethanol | 89 grams | CN(C)CCO | C4H11NO
reactant | allyl chloride | 76.5 grams | C(C=C)Cl | C3H5Cl
solvent | water | 244.7 grams | O | H2O
product | Allyl dimethyl hydroxyethylammonium chloride | [Cl-].C(C=C)[N+](CCO)(C)C | InChI=1S/C7H16NO.ClH/c1-4-5-8(2,3)6-7-9;/h4,9H,1,5-7H2,2-3H3;1H/q+1;/p-1
